US06908935B2
Step 4) 4-hydroxy-3-(4-methoxyphenyl)benzyl Alcohol:
A solution of Ethyl 4-hydroxy-3-(4-methoxyphenyl)benzoate and 4-hydroxy-3-(4-methoxyphenyl)benzoic acid (5.3 g, 19.47 mmol) in anhydrous THF (100 mL) was cooled to 0° C. and treated with LiAlH4 (2.95 g, 77.8 mmol); the mixture was then heated at 65 C for one hour then cooled and aqueous NaOH (5%, 19.4 mL) was added drop wise. The resulting precipitate was filtered off and the filtrate concentrated under reduced pressure to afford 5.54 g of crude product.

reactant | Ethyl 4-hydroxy-3-(4-methoxyphenyl)benzoate | OC1=C(C=C(C(=O)OCC)C=C1)C1=CC=C(C=C1)OC | C16H16O4
reactant | 4-hydroxy-3-(4-methoxyphenyl)benzoic acid | 19.47 mmol, 5.3 g | OC1=C(C=C(C(=O)O)C=C1)C1=CC=C(C=C1)OC | C14H12O4
reactant | LiAlH4 | 77.8 mmol, 2.95 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 19.4 mL | [OH-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-hydroxy-3-(4-methoxyphenyl)benzyl Alcohol | 5.54 g | OC1=C(C=C(CO)C=C1)C1=CC=C(C=C1)OC | C14H14O3
